US05604229
2-Acetamido-1,3-diacetoxy-2-(3-phenyl-2-propynyl)propane (430 mg) was dissolved in 8 ml of methanol and 8 ml of a 1N aqueous sodium hydroxide solution was added thereto. The mixture was refluxed under heating for 2 hours. The solvent was distilled away and the residue was purified by silica gel column chromatography (methanol:chloroform=1:50-1:7) to give 230 mg of 2-amino-2-(3-phenyl-2-propynyl)-1,3-propanediol as a pale yellow, amorphous-like solid.

reactant | 2-Acetamido-1,3-diacetoxy-2-(3-phenyl-2-propynyl)propane | 430 mg | C(C)(=O)NC(COC(C)=O)(COC(C)=O)CC#CC1=CC=CC=C1 | C18H21NO5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 8 ml | CO | CH4O
product | 2-amino-2-(3-phenyl-2-propynyl)-1,3-propanediol | 230 mg | NC(CO)(CO)CC#CC1=CC=CC=C1 | C12H15NO2
